US06713474B2
Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (30 mg, 0.065 mmol) was mixed with (5S)-5-(hydroxymethyl)tetrahydro-1H-2-pyrrolone (0.05 mL) in pyridine (0.5 mL). The reaction mixture was heated at 100° C. overnight. The solvent was removed and the residue was purified by preparative reverse phase LC/MS to give [(2S)-5-oxotetrahydro-1H-2-pyrrolyl]methyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (10 mg, 0.02 mmol). 1H NMR (CDCl-d) δ 1.90 (m, 1H), 2.06(m, 4H), 2.34 (m, 1H), 2.41 (m, 2H), 3.64 (m, 2H), 3.94 (s, 3H), 4.04(m, 2H), 4.14 (m, 2H), 4.98 (m, 1H), 5.33 (m, 3H), 6.10(s, 1H), 6.98 (s, 1H0, 7.04 (s, 1H), 7.09 (m, 1H), 7.31(s, 1H), 8.11 (bs, 1H), 8.32 (s, 1H). LC/MS: MH+481.

reactant | Phenyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.065 mmol, 30 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC2=CC=CC=C2)=O)OC)C2CCOCC2 | C25H25N5O4
reactant | (5S)-5-(hydroxymethyl)tetrahydro-1H-2-pyrrolone | 0.05 mL | OC[C@@H]1CCC(N1)=O | C5H9NO2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | [(2S)-5-oxotetrahydro-1H-2-pyrrolyl]methyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.02 mmol, 10 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC[C@H]2NC(CC2)=O)=O)OC)C2CCOCC2 | C24H28N6O5
